US07368579B2
N,N-Dimethylformamide (0.18 ml) solution of (R)-1-(2-methyl-2-oxiranylmethyl)-4-nitro-2-(4-nitrobenzenesulfonyl)imidazole (36 mg) and 3-(4-trifluoromethylphenyl)-2-propenyl piperazin-1-carboxylate (34 mg) was stirred at 60° C. for 1 day. To the reaction mixture was added water and ethyl acetate, the organic layer was taken by separation. The ethyl acetate layer was washed with water and an aqueous solution being saturated with sodium chloride, then dried over anhydrous sodium sulfonate. The residue obtained by removal of the solvent by distillation was purified by use of a thin layer chromatography (eluent: dichloromethane/methanol=30/1), there was obtained 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-{3-[4-nitro-2-(4-nitrobenzenesulfonyl)imidazol-1-yl]-2-hydroxy-2-methylpropyl]piperazin-1-carboxylate (45 mg, yield: 67%) as pale yellow amorphous product.

reactant | N,N-Dimethylformamide | 0.18 ml | CN(C=O)C | C3H7NO
reactant | (R)-1-(2-methyl-2-oxiranylmethyl)-4-nitro-2-(4-nitrobenzenesulfonyl)imidazole | 36 mg | C[C@@]1(OC1)CN1C(=NC(=C1)[N+](=O)[O-])S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H12N4O7S
reactant | 3-(4-trifluoromethylphenyl)-2-propenyl piperazin-1-carboxylate | 34 mg | N1(CCNCC1)C(=O)OCC=CC1=CC=C(C=C1)C(F)(F)F | C15H17F3N2O2
reactant | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-trifluoromethylphenyl)-2-propenyl (S)-4-{3-[4-nitro-2-(4-nitrobenzenesulfonyl)imidazol-1-yl]-2-hydroxy-2-methylpropyl]piperazin-1-carboxylate | 45 mg, yield: 67% | [N+](=O)([O-])C=1N=C(N(C1)C[C@@](CN1CCN(CC1)C(=O)OCC=CC1=CC=C(C=C1)C(F)(F)F)(C)O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C28H29F3N6O9S
